US04876261
640 mg of 7-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline was dissolved in 13 ml of 48% aqueous hydrogen bromide, and the mixture was heated under reflux under an argon gas stream for 3 hours. The reaction solution was cooled, and crystals which separated out were collected, affording 580 mg of 7-hydroxy4-(3,4-dihydroxyphenyl)-1,2,3,4,-tetrahydroisoquinoline hydrobromide.

reactant | 7-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 640 mg | COC1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)OC)OC | C18H21NO3
reactant | hydrogen bromide | 13 ml | Br | BrH
product | 7-hydroxy4-(3,4-dihydroxyphenyl)-1,2,3,4,-tetrahydroisoquinoline hydrobromide | 580 mg | Br.OC1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)O)O | InChI=1S/C15H15NO3.BrH/c17-11-2-3-12-10(5-11)7-16-8-13(12)9-1-4-14(18)15(19)6-9;/h1-6,13,16-19H,7-8H2;1H
